US07592456B2
Methyl 3-{[7-(4-fluorophenyl)quinolin-3-yl]sulfonyl}propanoate (4.23 g, 11.3 mmol) was dissolved/suspended in hot tetrahydrofuran (240 mL). Methanol (60 mL) was added and the mixture allowed to cool to about 30° C., at which point sodium methoxide (0.91 g, 17 mmol) was added and the resulting mixture stirred for 1 hour. The solid present was collected under suction, washed with tetrahydrofuran and dried in vacuo to afford a first crop of sodium 7-(4-fluorophenyl)quinoline-3-sulfinate (2.1 g). The filtrate was concentrated and the residue triturated with tetrahydrofuran. The solid was collected under suction, washed successively with small volumes of tetrahydrofuran, ice-cold water then tetrahydrofuran, and dried in vacuo to give a second crop of product (0.87 g). The combined yield of the title product was 2.97 g (85%). 1H NMR (500 MHz, CD3OD) δ 9.13 (1H, d, J 1.9 Hz), 8.52 (1H, d, J 1.6 Hz), 8.24 (1H, s), 8.11 (1H, d, J 8.5 Hz), 7.94 (1H, dd, J 1.7, 8.5 Hz), 7.84-7.82 (2H, m), 7.26 (2H, t, J 8.7 Hz).

reactant | Methyl 3-{[7-(4-fluorophenyl)quinolin-3-yl]sulfonyl}propanoate | 11.3 mmol, 4.23 g | FC1=CC=C(C=C1)C1=CC=C2C=C(C=NC2=C1)S(=O)(=O)CCC(=O)OC | C19H16FNO4S
reactant | Methanol | 60 mL | CO | CH4O
reactant | sodium methoxide | 17 mmol, 0.91 g | C[O-].[Na+]
solvent | tetrahydrofuran | 240 mL | O1CCCC1 | C4H8O
product | sodium 7-(4-fluorophenyl)quinoline-3-sulfinate | 2.1 g | FC1=CC=C(C=C1)C1=CC=C2C=C(C=NC2=C1)S(=O)[O-].[Na+] | InChI=1S/C15H10FNO2S.Na/c16-13-5-3-10(4-6-13)11-1-2-12-7-14(20(18)19)9-17-15(12)8-11;/h1-9H,(H,18,19);/q;+1/p-1
